US05250517
3.2 g (6.83 mmol) of (S)-α-(dibenzylacetoxy)imidazole-4-propionic acid benzyl ester in 150 ml of methanol were hydrogenated at room temperature for 2 hours in the presence of 660 mg of palladium-on-carbon. The catalyst was filtered off and the filter residue was washed several times with a 1:1 mixture of methylene chloride and methanol. The solution was concentrated under reduced pressure until crystallization occurred. Recrystallization of the crystallizate from methylene chloride/methanol yielded 2.5 g (96%) of (S)-α-(dibenzylacetoxy)imidazole-4-propionic acid, melting point 210°.

reactant | (S)-α-(dibenzylacetoxy)imidazole-4-propionic acid benzyl ester | 6.83 mmol, 3.2 g | C(C1=CC=CC=C1)OC([C@H](CC=1N=CNC1)OC(C(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C29H28N2O4
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium-on-carbon | 660 mg | [Pd] | Pd
product | (S)-α-(dibenzylacetoxy)imidazole-4-propionic acid | 2.5 g, 96% | C(C1=CC=CC=C1)C(C(=O)O[C@H](C(=O)O)CC=1N=CNC1)CC1=CC=CC=C1 | C22H22N2O4
